US04057641
2-(3-Acetyl-4-hydroxyphenyl)propan-1-ol (15.0g; 0.077 mol) was dissolved in hexamethylphosphoramide (150 ml) and slowly added to a stirred slurry of sodium hydride (10.0g; 0.417 mol) in hexamethylphosphoramide (40 ml) at a rate sufficient to maintain the temperature below 25° C. Ethyl propionate (20.0g; 0.2mol) was added and the mixture stirred for 2 hours before pouring into 2N hydrochloric acid (600 ml). The solution was extracted with ether (2 × 300 ml) and the extracts evaporated to give 2-[4-hydroxy-3-(3-oxapentanoyl)phenyl]propan-1-ol as a yellow oil. This was dissolved in ethanol (100 ml) containing concentrated hydrochloric acid (20 ml) and the solution was refluxed for 30 mins. The ethanol was removed in vacuo and the aqueous phase extracted with chloroform (2 × 150 ml). The combined extracts were washed with saturated sodium bicarbonate solution and dried over magnesium sulphate. The solvent was removed and the resulting oil was chromatographed on a silica gel column using ether as eluent. Recrystallisation of the product using hexane/ether (2:1) furnished a white microcrystalline solid (5.0g) mp 59.5-60.5° C.

reactant | 2-(3-Acetyl-4-hydroxyphenyl)propan-1-ol | 0.077 mol, 15.0g | C(C)(=O)C=1C=C(C=CC1O)C(CO)C | C11H14O3
reactant | sodium hydride | 0.417 mol, 10.0g | [H-].[Na+]
reactant | Ethyl propionate | 0.2mol, 20.0g | C(CC)(=O)OCC | C5H10O2
reactant | hydrochloric acid | 2N, 600 ml | Cl | ClH
solvent | hexamethylphosphoramide | 150 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | hexamethylphosphoramide | 40 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 2-[4-hydroxy-3-(3-oxapentanoyl)phenyl]propan-1-ol | OC1=C(C=C(C=C1)C(CO)C)C(COCC)=O | C13H18O4
